US08003649B2
A mixture of pyridine-3-carboxaldehyde and 6-[(2R)-2-methylpiperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 5 to give 6-[(2R)-2-methyl-4-(pyridin-3-ylmethyl)piperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine in quantitative yield.

reactant | pyridine-3-carboxaldehyde | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 6-[(2R)-2-methylpiperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | C[C@H]1N(CCNC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C11H13F3N6
product | 6-[(2R)-2-methyl-4-(pyridin-3-ylmethyl)piperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | quantitative yield | C[C@H]1N(CCN(C1)CC=1C=NC=CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C17H18F3N7
